* source HW5
T_T1         N14444 0 N14448 0 Z0=75 TD=50ns  
R_R1         N14437 N14444  25 TC=0,0 
R_R2         0 N14448  1k TC=0,0 
V_V2         N14437 0  
+PULSE 0 5 50ns 1p 1p 1s 2s
T_T2         N15252 0 N15258 0 Z0=75 TD=50ns  
R_R3         N15242 N15252  75 TC=0,0 
V_V3         N15242 0  
+PULSE 0 5 50ns 1p 1p 1s 2s
R_R4         0 N15354  1MEG TC=0,0 
T_T3         N15626 0 N15354 0 Z0=200 TD=50ns  
R_R5         N15258 N15626  158 TC=0,0 
R_R6         0 N15258  95 TC=0,0 
